US05356752
1st stage: Preparation of 3-tert.-butoxycarbonyloxy-benzaldehyde dimethylacetal
Two g (9 mmol) of 3-tert.-butoxycarbonyloxy-benzaldehyde were dissolved at room temperature in 10 ml of methanol and 1.2 ml of trimethyl orthoformate. To obtain complete solution, 1.5 ml of toluene were added. This was followed by the addition of 3.75 mg of RhCl3 [CH3C(CH2PPh2)3 ] as catalyst. The mixture was then stirred overnight at room temperature. The solvents were separated off by steam distillation, and the oily residue was taken up in a little toluene. The rhodium catalyst was filtered off over a G-4 frit. After the toluene had been stripped off under reduced pressure, the product was dried in an oil pump vacuum.

reactant | 3-tert.-butoxycarbonyloxy-benzaldehyde | 9 mmol | C(C)(C)(C)OC(=O)OC=1C=C(C=O)C=CC1 | C12H14O4
reactant | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
reactant | methanol | 10 ml | CO | CH4O
solvent | trimethyl orthoformate | 1.2 ml | C(OC)(OC)OC | C4H10O3
product | 3-tert.-butoxycarbonyloxy-benzaldehyde dimethylacetal | COC(C1=CC(=CC=C1)OC(=O)OC(C)(C)C)OC | C14H20O5
